US09376422B2
Step 2: Synthesis of 5-chloro-2-methoxy-3-[methyl(oxan-4-yl)amino]benzoic acid
To a solution of methyl 5-chloro-2-methoxy-3-[methyl(oxan-4-yl)amino]benzoate (413 mg, 1.32 mmol) in THF (13 ml) and MeOH (2 ml) was added 4M NaOH (13.16 ml). The reaction mixture was stirred at 50° C. for 16 hours. The reaction mixture was acidified to pH 2-3 with 6M HCl and extracted with DCM (5×10 ml). The combined organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure to give 385 mg (98%) of the title compound as a thick yellow oil. LC-MS 94%, m/z=300.0/302.0, 1H NMR (500 MHz, Chloroform-d) δ ppm 7.74 (d, J=2.0 Hz, 1H), 7.30-7.12 (m, 1H), 4.11-4.02 (m, 2H), 4.01 (s, 3H), 3.54 (t, J=11.6 Hz, 1H), 3.40 (t, J=11.3 Hz, 2H), 2.76 (s, 3H), 1.97-1.78 (m, 2H), 1.63 (d, J=11.8 Hz, 2H).

reactant | methyl 5-chloro-2-methoxy-3-[methyl(oxan-4-yl)amino]benzoate | 1.32 mmol, 413 mg | ClC=1C=C(C(=C(C(=O)OC)C1)OC)N(C1CCOCC1)C | C15H20ClNO4
reactant | NaOH | 4M, 13.16 ml | [OH-].[Na+]
reactant | HCl | 6M | Cl | ClH
solvent | THF | 13 ml | C1CCOC1 | C4H8O
solvent | MeOH | 2 ml | CO | CH4O
product | 5-chloro-2-methoxy-3-[methyl(oxan-4-yl)amino]benzoic acid | 385 mg, 98% | ClC=1C=C(C(=C(C(=O)O)C1)OC)N(C1CCOCC1)C | C14H18ClNO4
